US09326516B2
1-(1-(3-Chlorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C15)
The title compound was prepared with 2-amino-2-(3-chlorophenyl)ethanol (Galley, G.; et al., WO 2008092785) and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an white solid (1.44 g, 99%): 1H NMR (300 MHz, CDCl3) δ 7.96 (s, 1H), 7.66-7.53 (m, 3H), 7.25-7.08 (m, 2H), 6.77 (dd, J=8.6, 6.3 Hz, 4H), 6.70-6.61 (m, 4H), 6.58 (dd, J=6.4, 2.2 Hz, 1H), 6.49 (d, J=7.8 Hz, 1H), 5.18-4.95 (m, 1H), 3.43 (dd, J=11.3, 3.9 Hz, 1H), 3.31 (dd, J=11.3, 4.6 Hz, 1H); ESIMS m/z 534 ([M+H]+).

reactant | 2-amino-2-(3-chlorophenyl)ethanol | NC(CO)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | 1-(1-(3-Chlorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | ClC=1C=C(C=CC1)C(CO)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H19ClF3N5O2S
